US04387103
Ethyl 4-(2,3-Epoxypropoxy)benzoate
A mixture of 16.7 gm (0.10 mole) of ethyl 4-hydroxybenzoate, 20.7 gm (0.15 mole) of potassium carbonate and 24 mL (0.30 mole) of epichlorohydrin in 250 mL acetone was heated to reflux for 12 hours. The reaction medium was then filtered and evaporated. The resulting oil was taken up in 100 mL toluene and washed with 100 mL 1.0 N sodium hydroxide and 2×100 mL water. The toluene phase was then dried over magnesium sulfate and evaporated to give 13.5 gm (61%) of a clear oil. The NMR spectrum of this oil was consistent with the assigned structure and the oil was used in the next reaction step without further purification.

reactant | ethyl 4-hydroxybenzoate | 0.10 mole, 16.7 gm | OC1=CC=C(C(=O)OCC)C=C1 | C9H10O3
reactant | potassium carbonate | 0.15 mole, 20.7 gm | C([O-])([O-])=O.[K+].[K+]
reactant | epichlorohydrin | 0.30 mole, 24 mL | C(Cl)C1CO1 | C3H5ClO
solvent | acetone | 250 mL | CC(=O)C | C3H6O
product | Ethyl 4-(2,3-Epoxypropoxy)benzoate | 13.5 gm, 61% | O1C(COC2=CC=C(C(=O)OCC)C=C2)C1 | C12H14O4
